US07135475B2
A mixture of 2-amino-4-methyl-thiazole-5-carboxylic acid ethyl ester (1.0 g, 5.4 mmol) in N,N-dimethylformamide at 25° C. was treated with triethylamine (1.89 mL, 13.5 mmol) and triphenylmethylchloride (1.66 g, 5.94 mmol). The reaction was stirred at 2° C. for 2 days. At this time, the reaction was concentrated in vauco. The residue was dissolved in dichloromethane (100 mL) and was washed with a 1N aqueous hydrochloric acid solution (1×20 mL), a saturated aqueous sodium bicarbonate solution (1×20 mL), and a saturated aqueous sodium chloride solution (1×20 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 4-methyl-2-(trityl-amino)-thiazole-5-carboxylic acid ethyl ester (2.3 g, quant.). The product was used without further purification: LR-MS for C26H24N2O2S (M−H)+ at m/z=427.

reactant | 2-amino-4-methyl-thiazole-5-carboxylic acid ethyl ester | 5.4 mmol, 1.0 g | C(C)OC(=O)C1=C(N=C(S1)N)C | C7H10N2O2S
reactant | triethylamine | 13.5 mmol, 1.89 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylmethylchloride | 5.94 mmol, 1.66 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-methyl-2-(trityl-amino)-thiazole-5-carboxylic acid ethyl ester | 2.3 g | C(C)OC(=O)C1=C(N=C(S1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C26H24N2O2S
